US05326760
(a) 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(3-aminobenzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester
200 mg of 4-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(3-nitrobenzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester, prepared as in Example 30 where the protecting group Rp, 1,1-dimethylethyl was not removed following the condensation reaction seen in Scheme 1, was added to ethanol:H2O (20:1). 10 mL of ethyl acetate was added and the mixture was stirred with heating until the solid dissolved. The mixture was cooled to RT and 20 mg of 10% palladium over activated carbon was added. The mixture was purged with nitrogen. The mixture was purged with hydrogen, and stirred under hydrogen for 3 h. The mixture was filtered and washed with ethyl acetate. The solvents were removed by evaporation and the residue was purified by reverse phase H.P.L.C. to give a white solid; 83 mg

reactant | 4-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(3-nitrobenzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | 200 mg | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NCC3=CC(=CC=C3)[N+](=O)[O-])=O | C33H38N4O7
reactant | ethanol H2O | C(C)O.O
catalyst | palladium | 20 mg | [Pd] | Pd
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(3-aminobenzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NCC3=CC(=CC=C3)N)=O | C33H40N4O5
